US06207678B1
3(S)-(3,4-Dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butan-1-ol (0.68 g) (see Preparation 103) and triethylamine (0.22 g) were dissolved in dichloromethane (15 ml), the solution cooled in an ice-bath and methanesulphonyl chloride (0.22 g) added. The mixture was stirred for 4 hours before removal of the solvent under reduced pressure to give a residue which was partitioned between ethyl acetate and water. The organic phase was separated and washed with saturated aqueous sodium hydrogen carbonate solution before being dried over anhydrous sodium sulphate. The solvent was removed under reduced pressure to give 1-methanesulphonyloxy-3(S)-(3,4-dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butane (0.82 g) as an oil.

reactant | 3(S)-(3,4-Dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butan-1-ol | 0.68 g | ClC=1C=C(C=CC1Cl)[C@H](CCO)CN1C(=NC=C1)C(=O)C=1C=2CCCCC2C=CC1 | C24H24Cl2N2O2
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.22 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-methanesulphonyloxy-3(S)-(3,4-dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butane | 0.82 g | CS(=O)(=O)OCC[C@H](CN1C(=NC=C1)C(=O)C=1C=2CCCCC2C=CC1)C1=CC(=C(C=C1)Cl)Cl | C25H26Cl2N2O4S
